US03972992
To a solution of 0.973 g of sodium dissolved in 100 ml of abs. ethanol was added 12.1 g (0.042 mol) of morphine. After heating at reflux for 1 hr, the reaction mixture was cooled to room temperature and 6.3 g of 4-bromobutyronitrile was added; then heating under reflux was resumed for 16 hr. After removal of the ethanol, the residue was dissolved in chloroform (150 ml). The chloroform solution was washed with 2 N sodium hydroxide (2 × 50 ml) and with water (50 ml). After drying, the solvent was removed in vacuo to give 14.0 g of crude 3-(3-cyanopropoxy)-7,8-didehydro-4,5 α-epoxy-17-methylmorphinan-6 α-ol. A sample of this compound was distilled, b.p. 260°-265°/0.25 mm; [α]D25 -104.09°(c 1.06, MeOH).

reactant | sodium | 0.973 g | [Na] | Na
reactant | morphine | 0.042 mol, 12.1 g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | 4-bromobutyronitrile | 6.3 g | BrCCCC#N | C4H6BrN
solvent | ethanol | C(C)O | C2H6O
product | 3-(3-cyanopropoxy)-7,8-didehydro-4,5 α-epoxy-17-methylmorphinan-6 α-ol | 14.0 g | C(#N)CCCOC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C21H24N2O3
